US07141596B2
Step 2. Synthesis of 2-(methylsulfonyl)phenol
2-(Methylthio)phenol (1.08 g, 7.32 mmol) was dissolved in acetone (20 mL). Oxone® (9.4 g, 15 mmol) was separately dissolved in water (100 mL) and stirred at ambient temperature for 24 h. The acetone was concentrated, extracted with ether, dried over sodium sulfate, filtered, and concentrated to yield a waxy solid (1.2 g, 95%). 1H NMR (400 MHz, CDCl3): δ 8.85 (s, 1H), 7.69 (dd, J=8.4 Hz, J′=1.7 Hz, 1H), 7.54 (m, 1H), 7.05 (m, 2H), 3.12 (s, 3H); LCMS found for C7H9O3S (M+H)+: m/z=173.0.

reactant | 2-(Methylthio)phenol | 7.32 mmol, 1.08 g | CSC1=C(C=CC=C1)O | C7H8OS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | 2-(methylsulfonyl)phenol | 1.2 g, 95% | CS(=O)(=O)C1=C(C=CC=C1)O | C7H8O3S
